US08008279B2
6-methanesulfonyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole
6-methanesulfonyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester (214 mg, 0.61 mmol) was dissolved in DCM (1 mL) and the 4M HCl in dioxane (1 mL) added. Evolution of gas commenced immediately and the reaction was stirred for 2.5 h when no further evolution was observed but a black solid had separated from the reaction.

reactant | 6-methanesulfonyl-1,3,4,5-tetrahydro-pyrido[4,3-b]indole-2-carboxylic acid tert-butyl ester | 0.61 mmol, 214 mg | C(C)(C)(C)OC(=O)N1CC2=C(NC=3C(=CC=CC23)S(=O)(=O)C)CC1 | C17H22N2O4S
reactant | HCl | 4M | Cl | ClH
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
product | 6-methanesulfonyl-2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indole | CS(=O)(=O)C1=CC=CC=2C3=C(NC12)CCNC3 | C12H14N2O2S
